US07173031B2
E) N-(3-(4-(4-Amino-2-fluorophenoxy)pyrrolo[2,1-f][1,2,4]triazin-5-yl)phenyl)acetamide
A flask was charged with palladium acetate (4.5 mg, 0.02 mmol), X-Phos ligand (24 mg, 0.05 mmol, Strem), 4-(5-chloropyrrolo[2,1-f][1,2,4]triazin-4-yloxy)-3-fluorobenzenamine (56 mg, 0.20 mmol), 3-acetamidobenzene boronic acid (72 mg, 0.40 mmol, Lancaster), and potassium phosphate (127 mg, 0.60 mmol) in that order. The flask was flushed with nitrogen and then t-BuOH was added (0.40 mL). The mixture was heated at 80° C. for 8 h. Additional shots of palladium acetate (4.5 mg, 0.02 mmol), X-Phos ligand (24 mg, 0.05 mmol), and 3-acetamidobenzene boronic acid (72 mg, 0.40 mmol) were added and the reaction was stirred an additional 9 h at 80° C. After cooling to rt, the reaction was filtered using MeOH to remove the potassium phosphate and then concentrated in vacuo. The crude product was purified by reverse phase prep HPLC and the appropriate fractions were concentrated in vacuo to remove MeOH. The resulting aqueous layer was made basic with saturated sodium bicarbonate solution and extracted with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound (20 mg, 26%) as a white solid. 1H NMR (CD3OD) δ 7.84–7.94 (m, 2H), 7.44–7.41 (m, 1H), 7.34–7.19 (m, 3H), 6.92 (t, 1H, J=8.8 Hz), 6.87 (d, 1H, J=2.8 Hz), 6.50 (dd, 1H, J=12.4, 2.4 Hz), 6.46–6.43 (m, 1H), 2.04 (s, 3H); MS(ESI+) m/z 378.3 (M+H)+.

reactant | X-Phos | 0.05 mmol, 24 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 4-(5-chloropyrrolo[2,1-f][1,2,4]triazin-4-yloxy)-3-fluorobenzenamine | 0.20 mmol, 56 mg | ClC=1C=CN2N=CN=C(C21)OC2=C(C=C(C=C2)N)F | C12H8ClFN4O
reactant | 3-acetamidobenzene boronic acid | 0.40 mmol, 72 mg | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
reactant | potassium phosphate | 0.60 mmol, 127 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | X-Phos | 0.05 mmol, 24 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 3-acetamidobenzene boronic acid | 0.40 mmol, 72 mg | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
catalyst | palladium acetate | 0.02 mmol, 4.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.02 mmol, 4.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(3-(4-(4-Amino-2-fluorophenoxy)pyrrolo[2,1-f][1,2,4]triazin-5-yl)phenyl)acetamide | 20 mg, 26% | NC1=CC(=C(OC2=NC=NN3C2=C(C=C3)C=3C=C(C=CC3)NC(C)=O)C=C1)F | C20H16FN5O2
